US07067529B2
[4-(4-Hydroxy-piperidine-1-carbonyl)-6,7-dimethoxy-isoquinolin-1-yl]-(3-methoxy-phenyl)-methanone
A solution of 6,7-dimethoxy-1-(3-methoxy-benzoyl)-isoquinoline-4-carboxylic acid (30.0 mg, 61.75 mmol) in dry, N,N-dimethylformamide (2 mL) was chilled in an ice bath under argon. With stirring, triethylamine (14.4 uL, 102 mmol) and isobutylchloroformate (13.4 uL, 102 mmol) were added. The solution was stirred for 30 min and then 4-hydroxypiperidine (165 mg, 1.633 mmol) was added. The solution was allowed to warm to room temperature with stirring for 1 hr. and then diluted with ethyl acetate (30 mL). The ethyl acetate solution was washed sequentially with saturated aqueous sodium bicarbonate solution (2×5 mL), water (5 mL), and saturated aqueous sodium chloride solution (5 mL), dried over magnesium sulfate, filtered and concentrated in vacuo to afford 35 mg of an off white solid. This crude material was purified by flash chromatography eluting with 50% ethyl acetate in hexanes (containing 1% acetic acid) and then increasing gradually to 80% ethyl acetate in hexanes. After tlc analysis, fractions were pooled and evaporated to yield 25 mg (68%) of product as an acetic acid salt: APCI-MS m/e calcd for C25H26N2O6 (M+H) 451.5, found 451, H NMR (300 MHz) compatible.

reactant | 6,7-dimethoxy-1-(3-methoxy-benzoyl)-isoquinoline-4-carboxylic acid | 61.75 mmol, 30.0 mg | COC=1C=C2C(=CN=C(C2=CC1OC)C(C1=CC(=CC=C1)OC)=O)C(=O)O | C20H17NO6
reactant | triethylamine | 102 mmol, 14.4 uL | C(C)N(CC)CC | C6H15N
reactant | isobutylchloroformate | 102 mmol, 13.4 uL | C(C(C)C)OC(=O)Cl | C5H9ClO2
reactant | 4-hydroxypiperidine | 1.633 mmol, 165 mg | OC1CCNCC1 | C5H11NO
solvent | ethyl acetate | 30 mL | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
product | [4-(4-Hydroxy-piperidine-1-carbonyl)-6,7-dimethoxy-isoquinolin-1-yl]-(3-methoxy-phenyl)-methanone | 25 mg, 68% | OC1CCN(CC1)C(=O)C1=CN=C(C2=CC(=C(C=C12)OC)OC)C(=O)C1=CC(=CC=C1)OC | C25H26N2O6
